US06544604B2
1.27 g of 3,4,5-trifluorophenol and 870 mg of triethylamine were dissolved in 10 ml of methylene chloride, and the solution was stirred at −78° C. To the solution was added dropwise 5 ml of a methylene chloride solution of 2-(2-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)ethyl)-1,3-dithianilium triflate obtained above (3.8 g), and the to solution was further stirred for one hour. 6.24 ml of Et3N.3HF was then -added, and a methylene chloride solution of bromine (6.24 g) was further added dropwise. After stirring at −70° C. for one hour, the reaction solution was allowed to gradually warm up. It was poured into 100 ml of a cold 3N sodium hydroxide solution at 0° C. and extracted with methylene chloride (30 ml×3). The organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting yellow oily substance was isolated and purified by a silica gel column chromatography with heptane as a developing solvent to obtain 1.0 g of 1-(3-(trans-4-propylcyclohexyl)cyclohexyl)-1,1-difluoropropyleneoxy)-3,4,5-trifluorobenzene as colorless crystals. A transition point thereof is shown below.

reactant | 3,4,5-trifluorophenol | 1.27 g | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | triethylamine | 870 mg | C(C)N(CC)CC | C6H15N
reactant | Et3N | 6.24 ml | CCN(CC)CC | C6H15N
reactant | bromine | 6.24 g | BrBr | Br2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3,4,5-trifluorobenzene | FC=1C=CC=C(C1F)F | C6H3F3
